US07622471B2
1) 4-(2-Pyridyl)-2,4-dioxobutanoic acid methyl ester
In an argon atmosphere at room temperature, 2-acetylpyridine (2.56 g) in methanol (26 mL) was added to dimethyl oxalate (5.00 g) and sodium methoxide (2.29 g) in methanol (26 mL), followed by stirring for 15 minutes. The mixture was stirred at 60° C. for 45 minutes, and then cooled in air. Water was added to the reaction mixture, and the resultant mixture was washed with diethyl ether. The aqueous layer was partitioned by use of saturated aqueous ammonium chloride and chloroform. The organic layer was dried over sodium sulfate anhydrate, followed by filtration. The solvent was removed under reduced pressure, to thereby give 4-(2-pyridyl)-2,4-dioxobutanoic acid methyl ester as a solid (3.44 g, 79%).

reactant | 2-acetylpyridine | 2.56 g | C(C)(=O)C1=NC=CC=C1 | C7H7NO
reactant | dimethyl oxalate | 5.00 g | C(C(=O)OC)(=O)OC | C4H6O4
reactant | sodium methoxide | 2.29 g | C[O-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 26 mL | CO | CH4O
solvent | methanol | 26 mL | CO | CH4O
product | 4-(2-Pyridyl)-2,4-dioxobutanoic acid methyl ester | COC(C(CC(=O)C1=NC=CC=C1)=O)=O | C10H9NO4
